US04968689
Ethyl 3-amino-3-cyclopropyl-acrylate
1.1 g of p-toluenesulphonic acid are added to 49.9 g (0.32 mol) of ethyl cyclopropylcarbonylacetate in 200 ml of dry toluene and the mixture is saturated with ammonia gas at room temperature with stirring. After allowing to stand overnight, the mixture is boiled under reflux for 8 hours in a water separator, ammonia gas being continuously introduced. The mixture is allowed to cool overnight and is filtered, and the toluene solution is concentrated in vacuo and removed by distillation in a high vacuum up to 65° C. from unreacted starting material. The substance is subsequently found in the residue. Yield: 11.9 g (24% of theory).

reactant | p-toluenesulphonic acid | 1.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl cyclopropylcarbonylacetate | 0.32 mol, 49.9 g | C1(CC1)C(=O)CC(=O)OCC | C8H12O3
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-amino-3-cyclopropyl-acrylate | NC(=CC(=O)OCC)C1CC1 | C8H13NO2
